US07728129B2
(4-Isopropyl-piperazin-1-yl)-(4-morpholin-4-ylmethyl-phenyl)-methanone
To a solution of 4-(4-isopropyl-piperazine-1-carbonyl)-benzaldehyde (32.0 g, 123 mmol) in THF (650 mL) was added morpholine (21.4 g, 246 mmol), in a slow stream via an addition funnel over 15 min, and the resulting mixture was stirred at room temperature for 40 min. The reaction mixture was treated with NaBH(OAc)3 (38.4 g, 172 mmol) in portions over 40 min, was stirred at room temperature for 16 h, and then concentrated to a residue. The residue was diluted with EtOAc (400 mL), cooled to 0° C., and treated with 1 N NaOH (250 mL). The biphasic solution stirred at 0° C. for 30 min. The phases were separated and the aqueous layer was extracted with EtOAc (2×200 mL) and CH2Cl2 (2×100 mL). The organic layers were combined, washed with brine (1×300 mL), dried (Na2SO4), and concentrated to yield the title compound as a pale yellow oil.

reactant | 4-(4-isopropyl-piperazine-1-carbonyl)-benzaldehyde | 123 mmol, 32.0 g | C(C)(C)N1CCN(CC1)C(=O)C1=CC=C(C=O)C=C1 | C15H20N2O2
reactant | morpholine | 246 mmol, 21.4 g | N1CCOCC1 | C4H9NO
reactant | NaBH(OAc)3 | 172 mmol, 38.4 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | THF | 650 mL | C1CCOC1 | C4H8O
product | (4-Isopropyl-piperazin-1-yl)-(4-morpholin-4-ylmethyl-phenyl)-methanone | C(C)(C)N1CCN(CC1)C(=O)C1=CC=C(C=C1)CN1CCOCC1 | C19H29N3O2
